US09447084B2
4-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)piperazine-2,6-dione
Into a 50-mL round-bottom flask, was placed a solution of 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid (300 mg, 0.64 mmol, 1.00 equiv) in N,N-dimethylformamide (2 mL), HATU (483 mg, 1.27 mmol, 2.00 equiv), DIEA (164 mg, 1.27 mmol, 2.00 equiv), piperazine-2,6-dione (145 mg, 1.27 mmol, 2.00 equiv). The resulting solution was stirred for 3 h at 20° C. The resulting solution was diluted with 50 mL of brine. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined. The mixture was dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with PE/EA (10:1). This resulted in 330 mg (91%) of 4-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)piperazine-2,6-dione as a white solid.

reactant | 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid | 0.64 mmol, 300 mg, 1.00 equiv | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C(F)(F)F | C18H9Cl2F6NO3
reactant | HATU | 1.27 mmol, 483 mg, 2.00 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.27 mmol, 164 mg, 2.00 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | piperazine-2,6-dione | 1.27 mmol, 145 mg, 2.00 equiv | N1C(CNCC1=O)=O | C4H6N2O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 4-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)piperazine-2,6-dione | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CC(NC(C1)=O)=O)C(F)(F)F)C(F)(F)F | C22H13Cl2F6N3O4
